US08541448B2
Intermediate 174.1, 1-(2-(2-(2-(2-azidoethoxy)ethoxy)ethoxy)ethyl)-3-(3-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl)urea
To 4-nitrophenyl 3-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenylcarbamate (prepared by the procedure described in example 38) (200 mg, 0.40 mmol, 1.00 equiv, 95%) in DMF (5 mL) was added TEA (170 mg, 1.60 mmol, 4.00 equiv, 95%) and 2-(2-(2-(2-azidoethoxy)ethoxy)ethoxy)ethanamine (90 mg, 0.39 mmol, 1.00 equiv, 95%) and the resulting solution was stirred for 2 h. The mixture was then concentrated under vacuum, diluted with 10 mL of water and then extracted with 3×30 mL of ethyl acetate. The organic layers were combined, washed with 3×30 mL of brine, dried over anhydrous sodium sulfate and then evaporated. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:5˜1:1). This resulted in 160 mg (72%) of 1-(2-(2-(2-(2-azidoethoxy)ethoxy)ethoxy)ethyl)-3-(3-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl)urea as pale-yellow oil.

reactant | 4-nitrophenyl 3-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenylcarbamate | ClC=1C=C2C(CN(CC2=C(C1)Cl)C)C=1C=C(C=CC1)NC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C23H19Cl2N3O4
reactant | 2-(2-(2-(2-azidoethoxy)ethoxy)ethoxy)ethanamine | 0.39 mmol, 90 mg, 1.00 equiv | N(=[N+]=[N-])CCOCCOCCOCCN | C8H18N4O3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-(2-(2-(2-(2-azidoethoxy)ethoxy)ethoxy)ethyl)-3-(3-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl)urea | N(=[N+]=[N-])CCOCCOCCOCCNC(=O)NC1=CC(=CC=C1)C1CN(CC2=C(C=C(C=C12)Cl)Cl)C | C25H32Cl2N6O4
